US07723330B2
Step B: Preparation of N-(2-aminobenzyl)-3-fluoro-4-methoxyaniline:
To a stirred suspension of lithium aluminum hydride (121 mg, 3.2 mmol) in 2 mL dioxane at reflux under nitrogen was added 2-amino-N-(3-fluoro-4-methoxyphenyl)benzamide (260 mg, 1 mmol) as a solution in 2 mL dioxane. After refluxing overnight the reaction was cooled to room temperature and quenched by sequential treatment with H2O (150 μL), 15% NaOH (150 μL) and H2O (450 μL). After stirring for several minutes, the heterogeneous mixture was filtered through GF/F filter paper with dioxane and concentrated to a brown residue (246 mg, 100%). 1H NMR (400 MHz, CDCl3) δ 7.14 (m, 2H), 6.86 (m, 1H), 6.74 (m, 2H), 6.60 (dd, 1H), 6.42 (dd, 1H), 4.15 (d, 2H), 4.12 (br s, 2H), 3.83 (s, 3H), 3.54 (br s, 1H).

reactant | lithium aluminum hydride | 3.2 mmol, 121 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-N-(3-fluoro-4-methoxyphenyl)benzamide | 1 mmol, 260 mg | NC1=C(C(=O)NC2=CC(=C(C=C2)OC)F)C=CC=C1 | C14H13FN2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(2-aminobenzyl)-3-fluoro-4-methoxyaniline | NC1=C(CNC2=CC(=C(C=C2)OC)F)C=CC=C1 | C14H15FN2O
